US09376454B2
Step 3. Synthesis of (R)-3-(2-(3,4-bis(aminomethyl)phenyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(2-(3,4-bis((tert-butoxycarbonylamino)methyl)phenyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 384 (MH)+.

reactant | tert-butyl 3-((2R)-2-(2-(3,4-bis((tert-butoxycarbonylamino)methyl)phenyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1CNC(=O)OC(C)(C)C)CC(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C44H64BN3O10
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(2-(3,4-bis(aminomethyl)phenyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCC=1C=C(C=CC1CN)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C19H22BN3O5
